US06653471B2
To a mixture of {(3-tert-Butoxycarbonylamino-propionyl)-[2-(4-nitro-phenyl)-ethyl]-amino}-acetic acid (0.253 mmol) in 1 ml acetic anhydride is dimethyl acetylene dicarboxylate (0.278 mmol) added. After stirring at 85° C. for 4½ hours the solvent is evaporated in vacuo. The dark brown oil is chromatographed using ethyl acetate 2:Hexane 3 as a mobile phase to yield 2-(2-tert-Butoxycarbonylamino-ethyl)-1-[2-(4-nitro-phenyl)-ethyl]-1H-pyrrole-3,4-dicarboxylic acid dimethyl ester, 79 mg, as a yellow oil (66%): 1H NMR (CD3OD) 1.50 (s, 9H), 2.84 (t, 2H), 3.14-3.34 (m, 4H), 3.77 (s, 3H), 3.82 (s, 3H), 4.33 (t, 2H), 6.74 (t, 1H), 7.29 (s, 1H), 7.44 (d, 2H), 8.16 (d, 2H) LRMS calcd 475.50, found [M] 475.1.

reactant | {(3-tert-Butoxycarbonylamino-propionyl)-[2-(4-nitro-phenyl)-ethyl]-amino}-acetic acid | 0.253 mmol | C(C)(C)(C)OC(=O)NCCC(=O)N(CCC1=CC=C(C=C1)[N+](=O)[O-])CC(=O)O | C18H25N3O7
reactant | dimethyl acetylene dicarboxylate | 0.278 mmol | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(2-tert-Butoxycarbonylamino-ethyl)-1-[2-(4-nitro-phenyl)-ethyl]-1H-pyrrole-3,4-dicarboxylic acid dimethyl ester | COC(=O)C1=C(N(C=C1C(=O)OC)CCC1=CC=C(C=C1)[N+](=O)[O-])CCNC(=O)OC(C)(C)C | C23H29N3O8
